US09359358B2
Step 1: methyl [6-hydroxy-2-(trifluoromethyl)pyrimidin-4-yl]acetate
2,2,2-Trifluoroethanimidamide (6.7 g, 50. mmol, Oakwood) was dissolved in 0.5 M sodium methoxide in methanol (120 mL, 60. mmol) and 3-oxopentanedioic acid dimethyl ester (8.4 mL, 55 mmol, Aldrich Co.) was added. The reaction solution was stirred 50° C. for 18 h. LCMS showed it to be mostly done to give the product, M+H 237. The solvent was rotovapped. 1 N HCl was added (50 mL) (pH5), followed 4M HCl (10 mL). The mixture was then extracted with ethyl acetate. The organic solution was washed with brine, dried over sodium sulfate, filtered and concentrated to 12 g of a yellow semisolid. The product was isolated by automatic silica gel chromatography on a 120 g silica gel column, using solvent A=hexane; solvent B=3% iPrOH/EtOAc; flow 60 mL/min; A, 3 min; gradient to 30% B in 40 min, then 30% B for 20 min; detector set at 256 nm; collected 47 mL fractions. The product eluted at 10-25 min. HPLC showed UVmax at 222 and 254 nm (dropping off to 320 nm). The solvent was removed to give 9 g of product. The product was purified by automatic silica gel chromatography on a 120 g silica gel column, using solvent A=hexane; solvent B=iPrOH; flow 60 mL/min; A, 3 min; gradient to 20% B in 25 min, then 20% B for 10 min; detector set at 264 nm; collected 47 mL fractions. The product eluted at 22-27 min. The solvent was removed by rotary evaporation to give the desired product as light yellow viscous oil, 5.2 g, which slowly began to crystallize. NMR (400 MHz, DMSO-D6) δ 6.95 (s, 1H); 3.87 (s, 2H, ArCH2); 3.63 (s, 3H).

reactant | 2,2,2-Trifluoroethanimidamide | 6.7 g | FC(C(N)=N)(F)F | C2H3F3N2
reactant | 3-oxopentanedioic acid dimethyl ester | 55 mmol, 8.4 mL | COC(CC(CC(=O)OC)=O)=O | C7H10O5
reactant | HCl | 1 N | Cl | ClH
reactant | HCl | 4M, 10 mL | Cl | ClH
reactant | hexane | CCCCCC | C6H14
solvent | sodium methoxide | 0.5 M | C[O-].[Na+]
solvent | methanol | 120 mL | CO | CH4O
solvent | iPrOH EtOAc | CC(C)O.CCOC(=O)C
product | methyl [6-hydroxy-2-(trifluoromethyl)pyrimidin-4-yl]acetate | 9 g | OC1=CC(=NC(=N1)C(F)(F)F)CC(=O)OC | C8H7F3N2O3
